US06846843B2
16.7 g of 2-formylamino-3-mercapto-3-methyldecanoic acid ethyl ester as a 6:4 threo/erythro mixture (product 6) were added at room temperature to 606 ml of 6N hydrochloric acid and then stirred for 24 hours under reflux (TLC check: dichloromethane:methanol:glacial acetic acid 35:5:3). After cooling to room temperature the reaction mixture was stirred further while cooling with ice. The precipitated white solid was suction filtered, washed with ether and then dried in vacuo. 13.3 g (94.9% of theory) of rac-2-amino-3-mercapto-3-methyldecanoic acid hydrochloride were thus obtained as a 6:4 threo/erythro mixture (compound 6; product 1).

reactant | 2-formylamino-3-mercapto-3-methyldecanoic acid ethyl ester | 16.7 g | C(C)OC(C(C(CCCCCCC)(C)S)NC=O)=O | C14H27NO3S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | rac-2-amino-3-mercapto-3-methyldecanoic acid hydrochloride | 13.3 g, 94.9% | Cl.NC(C(=O)O)C(CCCCCCC)(C)S | InChI=1S/C11H23NO2S.ClH/c1-3-4-5-6-7-8-11(2,15)9(12)10(13)14;/h9,15H,3-8,12H2,1-2H3,(H,13,14);1H
